US04782050
1. 2-methylnaphth[2,3-d]imidazole
To a solution of 4.74 g of 2,3-diaminonaphthalene in 150 ml of ethanol and 30 ml of N,N-dimethylacetamide was added 4.86 g of triethyl orthoacetate, and the mixture heated at 60° C. for 2 hours. An additional 5.5 ml of triethyl orthoacetate was added and stirring continued at 60° C. overnight. The solvent was removed and the residue treated with chloroform. The solids were filtered and the filtrate concentrated to a small volume, treated with ether and filtered. The solids were combined to give 4.07 g of the product as a white solid.

reactant | 2,3-diaminonaphthalene | 4.74 g | NC1=CC2=CC=CC=C2C=C1N | C10H10N2
reactant | triethyl orthoacetate | 4.86 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | triethyl orthoacetate | 5.5 ml | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
product | 2-methylnaphth[2,3-d]imidazole | 4.07 g | CC=1NC2=C(N1)C=C1C=CC=CC1=C2 | C12H10N2
